US05395932
2-pentyl-4-chloromethyl-oxazole (3)
The synthesis of 3 was performed similarly to example 1 above. The solids, hexanoamide (5 g) and 1,3-dichloroacetone (5.5 g), were mixed together in a round bottomed flask and heated at 120° C. under an argon atmosphere for 2 hours. The mixture was cooled to 25° C. for 1 hour, followed by the addition of concentrated H2SO4 (50 mL). The resulting syrup was poured onto ice and the pH was adjusted to 10 with NaOH (1M). The resulting solution was extracted with CHCl3, dried (Na2SO4) and evaporated to yield a brown liquid (1.56 g). This material was chromatographed according to Still et al. (J. Org. Chem., 1978, 43, 2923) on silica gel in EtOAc to yield 3 as a yellow liquid (1.4 g).

reactant | hexanoamide | 5 g | C(CCCCC)(=O)N | C6H13NO
reactant | 1,3-dichloroacetone | 5.5 g | ClCC(=O)CCl | C3H4Cl2O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 2-pentyl-4-chloromethyl-oxazole | 1.56 g | C(CCCC)C=1OC=C(N1)CCl | C9H14ClNO
